US06265411B1
A solution of 5-aminosulphonyloxindole (355 mg, 1.67 mmol) in DMF (3.5 ml) was added dropwise to sodium hydride (67 mg, 1.67 mmol, prewashed with THF) in DMF (5 ml). The mixture was stirred for 30 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (150 mg, 0.56 mmol), (prepared as described for the starting material in Example 2), in DMF (3 ml) was added. The mixture was heated at 65° C. for 2.5 hours and then stirred overnight at ambient temperature. The mixture was partitioned between ethyl acetate and water, the aqueous layer was adjusted to pH7 with 1M hydrochloric acid and left standing for 2 hours. The resulting precipitate was collected by filtration, washed with water and ether, and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 2.2M ethereal hydrogen chloride (1ml) was added. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 4-(5-aminosulphonyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (144 mg, 60%).

reactant | 5-aminosulphonyloxindole | 1.67 mmol, 355 mg | NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H8N2O3S
reactant | sodium hydride | 1.67 mmol, 67 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.56 mmol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(5-aminosulphonyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 144 mg, 60% | Cl.NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | InChI=1S/C20H20N4O6S.ClH/c1-28-5-6-30-17-9-15-13(8-16(17)29-2)19(23-10-22-15)18-12-7-11(31(21,26)27)3-4-14(12)24-20(18)25;/h3-4,7-10,18H,5-6H2,1-2H3,(H,24,25)(H2,21,26,27);1H
